US04705883
N,N'-diphenylurea.
After 45 minutes at 160° C., the solution contained 0.050 mole each of methyl N-phenyl carbamate and aniline, representing quantitative urea alcoholysis.

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | urea | NC(=O)N | CH4N2O
product | N,N'-diphenylurea | C1(=CC=CC=C1)NC(=O)NC1=CC=CC=C1 | C13H12N2O
